US06927228B2
(f) N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-ylmethyl]-N-ethylbenzamide
In a manner similar to that of Example 1(f), by reacting 300 mg (0.9 mmol) of N-ethyl-N-(4′-formyl-biphenyl-3-ylmethyl)benzamide with 100 mg (0.9 mmol) of 2,4-thiazolidine dione, 340 mg (88%) of the expected product are obtained.

reactant | N-ethyl-N-(4′-formyl-biphenyl-3-ylmethyl)benzamide | 0.9 mmol, 300 mg | C(C)N(C(C1=CC=CC=C1)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C23H21NO2
reactant | 2,4-thiazolidine dione | 0.9 mmol, 100 mg | S1C(NC(C1)=O)=O | C3H3NO2S
product | N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-ylmethyl]-N-ethylbenzamide | 340 mg, 88% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)CC | C26H22N2O3S
